US06969710B2
Synthesis of N-[5-(4-methyl-1-piperazinyl)-2-nitrophenyl]-methanesulfonamide (Scheme 2, Method 3)
N-(5-fluoro-2-nitrophenyl)methanesulfonamide (1.33 g, 5.68 mmol) was dissolved in DMF (10 mL) and N-methylpiperazine (2.00 g, 20 mmol) was added. The reaction mixture was stirred at 20° C. for 1 h, and then heated with a heat gun for 5 min to reach boiling of DMF (150° C.), then left stirring for another hour. The reaction mixture was then poured into brine and extracted with toluene (10 mL×2), EtOAc (20 mL×2) and CH2Cl2 (20 mL×2), NaHCO3 was then added to the water phase and then the water phase was extracted with CH2Cl2 (20 mL×2). The organic phases were combined and dried (MgSO4) and concentrated to give a semi solid. EtOH was added and left over night and then filtered off to give 1.503 g (4.78 mmol) in 84% yield. MS (posES-FIA) m/z=found: 315. Calc M=314.10. Anal (C12 H18 N4 O4 S), C, H, N, S.

reactant | N-(5-fluoro-2-nitrophenyl)methanesulfonamide | 5.68 mmol, 1.33 g | FC=1C=CC(=C(C1)NS(=O)(=O)C)[N+](=O)[O-] | C7H7FN2O4S
reactant | N-methylpiperazine | 20 mmol, 2.00 g | CN1CCNCC1 | C5H12N2
reactant | EtOH | CCO | C2H6O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-[5-(4-methyl-1-piperazinyl)-2-nitrophenyl]-methanesulfonamide | 84% yield | CN1CCN(CC1)C=1C=CC(=C(C1)NS(=O)(=O)C)[N+](=O)[O-] | C12H18N4O4S
